US05114936
To a solution consisting of 5-(3-chloropropyl)-3-(2-fluorophenyl)-6,7-dihydro-1,2-benzisoxazol-4(5H)-one (6.0 g) and DMF (100 ml) was added anhydrous potassium carbonate (1.4 g), diisopropylethylamine (5.1 ml), 1-(3-chlorophenyl)piperazine (4.9 g) and potassium iodide (0.3 g) at room temperature with stirring. The flask was flushed with nitrogen and warmed to 80° C. for 18 hours. Upon cooling to room temperature, water and ethyl acetate were added to the reaction mixture. The layers were separated and the aqueous phase was extracted 3 times with ethyl acetate. The combined organic layers were washed with water twice, then brine twice, and dried (MgSO4). Filtration and concentration gave the crude product. Purification via flash column chromatography (silica gel) afforded 3.4 g of 5-[3-(4-(3-chlorophenyl)-1-piperazinyl)propyl]-6,7-dihydro-3-(2-fluorophenyl)-1,2-benzisoxazol-4(5H)-one as an oil. The hydrochloride was prepared in methanol with ethereal HCl. The precipitate was filtered and washed with anhydrous ether, m.p. 104°-106° C.

reactant | 5-(3-chloropropyl)-3-(2-fluorophenyl)-6,7-dihydro-1,2-benzisoxazol-4(5H)-one | 6.0 g | ClCCCC1CCC2=C(C(=NO2)C2=C(C=CC=C2)F)C1=O | C16H15ClFNO2
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | diisopropylethylamine | 5.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(3-chlorophenyl)piperazine | 4.9 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 5-[3-(4-(3-chlorophenyl)-1-piperazinyl)propyl]-6,7-dihydro-3-(2-fluorophenyl)-1,2-benzisoxazol-4(5H)-one | 3.4 g | ClC=1C=C(C=CC1)N1CCN(CC1)CCCC1CCC2=C(C(=NO2)C2=C(C=CC=C2)F)C1=O | C26H27ClFN3O2
